US05338749
23.2 g (0.1 mole) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-carboxylic acid and 18 g (0.15 mole) of thionyl chloride in 75 ml of toluene were heated until hydrogen chloride gas was no longer formed. Thereafter, the mixture was evaporated down, toluene was added several times and the mixture was evaporated down again to remove residual thionyl chloride. The residue was dissolved in 75 ml of isopropanol and added dropwise at from -10° to -15° C. to a solution of 7.4 g (0.23 mole) of hydrazine in 200 ml of isopropanol. The mixture was stirred for 15 minutes at -10° C., 150 ml of water and 50 ml of ether were added and the mixture was stirred again vigorously. The mixture was left to stand overnight, after which the solid was filtered off and the filtrate was extracted with water/ether. The organic phase was washed with water, dried over sodium sulfate and evaporated down. 19.7 g (0.08 mole) of the 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-carboxylic hydrazine remaining as the residue were dissolved in 100 ml of dry tetrahydrofuran. A solution of 13.5 (0.088 mole) of 4-cyanobenzoyl chloride in 100 ml of tetrahydrofuran was added dropwise at 0° C. The stirred reaction mixture was allowed to reach room temperature in the course of 45 minutes. It was poured onto water, and the precipitated solid was filtered off, washed with ethanol and dried to give 16.4 g of N-(4-cyanobenzoyl)-N'-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)-hydrazine of melting point 274°-277° C.

reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethylnaphthalene-2-carboxylic acid | 0.1 mole, 23.2 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)O)C | C15H20O2
reactant | thionyl chloride | 0.15 mole, 18 g | S(=O)(Cl)Cl | Cl2OS
reactant | hydrogen chloride | Cl | ClH
reactant | hydrazine | 0.23 mole, 7.4 g | NN | H4N2
reactant | 4-cyanobenzoyl chloride | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | isopropanol | 200 ml | C(C)(C)O | C3H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | water | 150 ml | O | H2O
product | N-(4-cyanobenzoyl)-N'-(5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthoyl)-hydrazine | 16.4 g | C(#N)C1=CC=C(C(=O)NNC(=O)C2=CC=3C(CCC(C3C=C2)(C)C)(C)C)C=C1 | C23H25N3O2
